US08278336B2
Step 1: (4-Chloro-6-methoxy-pyridin-2-yl)-(5-fluoro-2,3-dihydro-indol-1-yl)-methanone
550 mg (2.93 mmol) 4-chloro-6-methoxy-pyridine-2-carboxylate, 411 mg (3.00 mmol) 5-fluoroindoline, 1.06 g (3.30 mmol) TBTU and 927 μL (6.60 mmol) triethylamine in 5.00 mL DMF were stirred for 3 h at RT. The reaction mixture was purified by HPLC. The product-containing fractions were combined and evaporated down using the rotary evaporator.

reactant | 4-chloro-6-methoxy-pyridine-2-carboxylate | 2.93 mmol, 550 mg | ClC1=CC(=NC(=C1)OC)C(=O)[O-]
reactant | 5-fluoroindoline | 3.00 mmol, 411 mg | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | TBTU | 3.30 mmol, 1.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 6.60 mmol, 927 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
product | (4-Chloro-6-methoxy-pyridin-2-yl)-(5-fluoro-2,3-dihydro-indol-1-yl)-methanone | ClC1=CC(=NC(=C1)OC)C(=O)N1CCC2=CC(=CC=C12)F | C15H12ClFN2O2
